US05444074
(c) 3-t-Butyl-5-chlorotoluene
4-t-Butyl-2-chloro-6-methylaniline (1.97 g) was dissolved in ethanol (50 ml); sulphuric acid (1.88 ml, conc.) was added dropwise and the resulting blue solution was heated at reflux. Sodium nitrite (1.72 g) was added portionwise over 30 min. The resulting mixture was heated at reflux for a further 30 min, then cooled and was poured onto ice-water and extracted with ether (2×50 ml). The ethereal extract was dried (MgSO4) and evaporated and the residue was purified on silica gel using hexane as eluant. This afforded the product as a colourless oil. 1H NMR (360 MHz, CDCl3) δ1.29 (9H, s, (CH3)3), 2.31 (3H, s, CH3), 6.98 (1H, brs, ArH), 7.05 (1H, brs, ArH), 7.15 (1H, brs, ArH). MS (CI-) m/z 181 (M+ -H, 100%).

reactant | 4-t-Butyl-2-chloro-6-methylaniline | 1.97 g | C(C)(C)(C)C1=CC(=C(N)C(=C1)C)Cl | C11H16ClN
reactant | sulphuric acid | 1.88 ml | S(O)(O)(=O)=O | H2O4S
reactant | Sodium nitrite | 1.72 g | N(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-t-Butyl-5-chlorotoluene | C(C)(C)(C)C=1C=C(C=C(C1)Cl)C | C11H15Cl
